US03948913
A mixture of 3.0 grams of 1-methyl-4-methyl-mercapto-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine, 50 milliliters of a 33 % solution of methylamine in ethanol and 20 milliliters of ethyl acetate was heated at reflux for 1 hour and cooled. The crystalline product formed was collected, washed with ethanol and dried. Recrystallisation from ethyl acetate gave 4-methylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine having melting point 280°C. identical to the product obtained in Example 13.

reactant | 1-methyl-4-methyl-mercapto-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | 3.0 grams | CN1N=C(C=2C1=NC(=NC2C)S)C=2OC(=CC2)[N+](=O)[O-] | C11H9N5O3S
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 20 milliliters | C(C)(=O)OCC | C4H8O2
product | 4-methylamino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | CNC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C11H10N6O3
